US04550107
5,10-Dihydro-5-[[2-[(1-piperidinyl)methyl]-1-piperidinyl]acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 2 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and 2-[(1-piperidinyl)methyl]piperidine to give colorless crystals, mp. 220°-221° C. (acetonitrile).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | 2-[(1-piperidinyl)methyl]piperidine | N1(CCCCC1)CC1NCCCC1 | C11H22N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,10-Dihydro-5-[[2-[(1-piperidinyl)methyl]-1-piperidinyl]acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | N1(CCCCC1)CC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C26H32N4O2
